US08404837B2
Preparation of 2-amino-N,N-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinesulfonamide
To a solution of 2-amino-5-bromo-N,N-dimethyl-3-pyridinesulfonamide (7.14 mmol) in 1,4-dioxane (35 mL) was added 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (7.86 mmol), potassium acetate (28.56 mmol) and [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II)dichloromethane complex (1:1) (0.571 mmol). The reaction mixture was stirred at 100° C. for 18 h. The reaction was concentrated in vacuo, re-dissolved in ethyl acetate (50 mL) and purified on silica using 60% ethyl acetate/hexanes to yield the title compound as a tan solid (86%). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.41 (d, 1H, J=1.52), 7.92 (d, 1H, J=1.77), 2.68 (s, 6H), 1.28 (s, 12H).

reactant | 2-amino-5-bromo-N,N-dimethyl-3-pyridinesulfonamide | 7.14 mmol | NC1=NC=C(C=C1S(=O)(=O)N(C)C)Br | C7H10BrN3O2S
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 7.86 mmol | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 28.56 mmol | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 35 mL | O1CCOCC1 | C4H8O2
product | 2-amino-N,N-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinesulfonamide | 86% | NC1=NC=C(C=C1S(=O)(=O)N(C)C)B1OC(C(O1)(C)C)(C)C | C13H22BN3O4S
